US05919753
(d) Methylene bis(16-hydroxyhexadecanoate)
Methylene bis(16-triphenylmethoxyhexadecanoate) (0.07 g, 0.07 mmol) is dissolved in glacial acetic acid (8 ml) and heated at 55° C. The reaction is monitored by TLC. After 10 hours the reaction mixture is poured onto ice, and the crude product is filtered, washed with aqueous sodium bicarbonate and water, and dried under reduced pressure. The product is purified by flash chromatography on a silica column with chloroform/methanol (20:1) as eluant to yield the title compound as a white solid. 1H-NMR (300 MHz, CDCl3): δ 1.2-1.4(m, 44H), 1.5-1.6(m, 8H), 2.35(t, 4H), 3.64(t, 4H), 5.75(s, 2H).

reactant | Methylene bis(16-triphenylmethoxyhexadecanoate) | 0.07 mmol, 0.07 g | C1(=CC=CC=C1)C(OCCCCCCCCCCCCCCCC(=O)OCOC(CCCCCCCCCCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C71H92O6
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | Methylene bis(16-hydroxyhexadecanoate) | OCCCCCCCCCCCCCCCC(=O)OCOC(CCCCCCCCCCCCCCCO)=O | C33H64O6
